US07338959B2
(Methyl-nitro-1H-benzoimidazol-2-yl)-(3-trifluoromethyl-phenyl)-carbamic acid dimethyl-ethyl ester
(Methyl-nitro-1H-benzoimidazol-2-yl)-(3-trifluoromethyl-phenyl)-amine (2.34 g) and cesium carbonate (5.61 g, 17.2 mmol) was stirred in DMF for 15 min., then (BOC)2O (2.81 g, 12.9 mmol) was added. The resulting mixture was stirred at room temperature for 4 days, the reaction mixture was then concentrated and the residual was taken into EtOAc and washed by water, then brine, drying and concentration, silica flash, which gave 1.45 g of the title compound as a yellow foam: LC/MS(m/e) 437 [M+H]+, Rt at 2.34 min.

reactant | (Methyl-nitro-1H-benzoimidazol-2-yl)-(3-trifluoromethyl-phenyl)-amine | 2.34 g | CC1=CC=CC=2N(C(=NC21)NC2=CC(=CC=C2)C(F)(F)F)[N+](=O)[O-] | C15H11F3N4O2
reactant | cesium carbonate | 17.2 mmol, 5.61 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (BOC)2O | 12.9 mmol, 2.81 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | DMF | CN(C)C=O | C3H7NO
product | (Methyl-nitro-1H-benzoimidazol-2-yl)-(3-trifluoromethyl-phenyl)-carbamic acid dimethyl-ethyl ester | 1.45 g | CC(C)(C)OC(N(C1=CC(=CC=C1)C(F)(F)F)C1=NC2=C(N1[N+](=O)[O-])C=CC=C2C)=O | C20H19F3N4O4
